US07632857B2
(2-(S)-Hydroxymethyl-pyrrolidin-1-yl)-(4′-trifluoromethyl-biphenyl-4-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure B′ from 4′-trifluoromethyl-biphenyl-4-carboxylic acid, lithium salt using (S)-2-pyrrolidine methanol as the amine. MS (ES+) 350.2

reactant | 4′-trifluoromethyl-biphenyl-4-carboxylic acid | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O)(F)F | C14H9F3O2
reactant | lithium | [Li] | Li
reactant | (S)-2-pyrrolidine methanol | N1[C@@H](CCC1)CO | C5H11NO
product | (2-(S)-Hydroxymethyl-pyrrolidin-1-yl)-(4′-trifluoromethyl-biphenyl-4-yl)-methanone | OC[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C19H18F3NO2
